* Z:\home\aalmela\scm\git\utn\eaiii\2020\7_Mezcladores\ltspice\Draft2.asc
R1 N001 0 1
G1 N001 0 N002 0 TABLE (-1,1)(1,1)(4,5)(5,5)
V1 N002 0 PWL(0 -5 1 5)
.tran 1
.backanno
.end
